US07241785B2
A mixture of methyl [1-methyl-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetate (701 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (6 ml) and ethanol (6 ml) was stirred at room temperature for 2 hrs. 1N Hydrochloric acid (3 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give [1-methyl-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetic acid (547 mg, yield 81%), which was then recrystallized from acetone-hexane. melting point: 149–150° C.

reactant | methyl [1-methyl-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetate | 701 mg | CN1N=C(C(=C1)CC(=O)OC)OCC1=CC(=NO1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C22H22N4O6
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | [1-methyl-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetic acid | 547 mg, yield 81% | CN1N=C(C(=C1)CC(=O)O)OCC1=CC(=NO1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H20N4O6
